US07202245B2
A mixture of methyl-3,4-diaminobenzoate (4.5 g) in diethyloxalate (50 mL) was heated at reflux for three hrs. After cooling to 23° C., the solid was isolated by filtration, affording 2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-6-carboxylic acid methyl ester as a light yellow solid. MS (M−H)−=219.1.

reactant | methyl-3,4-diaminobenzoate | 4.5 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
reactant | diethyloxalate | 50 mL | C(C)OC(C(=O)OCC)=O | C6H10O4
product | 2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2NC(C(NC2=CC1)=O)=O | C10H8N2O4
